US05047540
To a solution of 197 mg (0.354 mM) of 3-(3-chloropropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane IIIa6 in 7 ml of methyl ethyl ketone is added 265 mg (1.77 mM) of sodium iodide and the mixture is heated under refluxing for 3 hours with stirring. After the solvent is evaporated, the residue is purified by the column chromatography on silica gel with a n-hexane-ethyl acetate (3:1) mixture as an eluent to give 197 mg (0.304 mM) of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane IIa6 in 86% yield.

reactant | 3-(3-chloropropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane | 0.354 mM, 197 mg | ClCCCS(=O)(=O)NCC(CSC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53ClN2O4S2
reactant | sodium iodide | 1.77 mM, 265 mg | [I-].[Na+]
solvent | methyl ethyl ketone | 7 ml | C(C)C(=O)C | C4H8O
product | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane | 0.304 mM, 197 mg, 86% yield | ICCCS(=O)(=O)NCC(CSC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O4S2
